US07495104B2
4-(6,7-Dimethoxy-4-quinolyloxy)aniline (310 mg) was dissolved in triethylamine/chloroform (5 ml/20 ml) to prepare a solution. Triphosgene (350 mg) was then added to the solution, and the mixture was stirred at room temperature for 30 min. Phenylhydrazine hydrochloride (180 mg) was added to the reaction solution, and the mixture was stirred at room temperature for additional 30 min. Water and ethyl acetate were added to the reaction solution, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine and was dried over sodium sulfate. The solvent was removed by evaporation under the reduced pressure, and the residue was purified by thin-layer chromatography on silica gel using chloroform/acetone for development to give N1-{4-[(6,7-dimethoxy-4-quinolyl)oxy]phenyl}-2-phenyl-1-hydrazinecarboxamide (270 mg, yield 60%).

reactant | 4-(6,7-Dimethoxy-4-quinolyloxy)aniline | 310 mg | COC=1C=C2C(=CC=NC2=CC1OC)OC1=CC=C(N)C=C1 | C17H16N2O3
reactant | Triphosgene | 350 mg | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | Phenylhydrazine hydrochloride | 180 mg | Cl.C1(=CC=CC=C1)NN
reactant | Water | O | H2O
solvent | triethylamine chloroform | 5 ml | C(C)N(CC)CC.C(Cl)(Cl)Cl
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N1-{4-[(6,7-dimethoxy-4-quinolyl)oxy]phenyl}-2-phenyl-1-hydrazinecarboxamide | 270 mg, yield 60% | COC=1C=C2C(=CC=NC2=CC1OC)OC1=CC=C(C=C1)NC(=O)NNC1=CC=CC=C1 | C24H22N4O4
